US04593118
A solution of 0.054 mmol of ammonia in ethanol was added dropwise to 0.054 mol of ethyl 2-acetamidoacetoacetate in 40 ml of ice cold ethanol over a period of 10 minutes. The reaction vessel was tightly capped and allowed to stir overnight at 23° C., after which the solvent was removed at reduced pressure to provide ethyl 2-acetamido-3-aminobut-2-enoate in a 3/1 ratio of two geometrical isomers.

reactant | ammonia | 0.054 mmol | N | H3N
reactant | ethyl 2-acetamidoacetoacetate | 0.054 mol | C(C)(=O)NC(C(=O)OCC)C(=O)C | C8H13NO4
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-acetamido-3-aminobut-2-enoate | C(C)(=O)NC(C(=O)OCC)=C(C)N | C8H14N2O3
